* /Users/amritha/gan-driver/ltspice/SEGDRV_inside.asc
* Generated by LTspice 26.0.2 for MacOS.
Spu1 vp N001 pu 0 SWP
Rpu1 N001 out {runit + (npu>=1 ? 0 : 1e9)}
Spu2 vp N002 pu 0 SWP
Rpu2 N002 out {runit + (npu>=2 ? 0 : 1e9)}
Spu3 vp N003 pu 0 SWP
Rpu3 N003 out {runit + (npu>=3 ? 0 : 1e9)}
Spu4 vp N004 pu 0 SWP
Rpu4 N004 out {runit + (npu>=4 ? 0 : 1e9)}
Spu5 vp N005 pu 0 SWP
Rpu5 N005 out {runit + (npu>=5 ? 0 : 1e9)}
Spu6 vp N006 pu 0 SWP
Rpu6 N006 out {runit + (npu>=6 ? 0 : 1e9)}
Spu7 vp N007 pu 0 SWP
Rpu7 N007 out {runit + (npu>=7 ? 0 : 1e9)}
Spu8 vp N008 pu 0 SWP
Rpu8 N008 out {runit + (npu>=8 ? 0 : 1e9)}
Rpd1 out N009 {runit + (npd>=1 ? 0 : 1e9)}
Spd1 N009 vn pd 0 SWP
Rpd2 out N010 {runit + (npd>=2 ? 0 : 1e9)}
Spd2 N010 vn pd 0 SWP
Rpd3 out N011 {runit + (npd>=3 ? 0 : 1e9)}
Spd3 N011 vn pd 0 SWP
Rpd4 out N012 {runit + (npd>=4 ? 0 : 1e9)}
Spd4 N012 vn pd 0 SWP
Rpd5 out N013 {runit + (npd>=5 ? 0 : 1e9)}
Spd5 N013 vn pd 0 SWP
Rpd6 out N014 {runit + (npd>=6 ? 0 : 1e9)}
Spd6 N014 vn pd 0 SWP
Rpd7 out N015 {runit + (npd>=7 ? 0 : 1e9)}
Spd7 N015 vn pd 0 SWP
Rpd8 out N016 {runit + (npd>=8 ? 0 : 1e9)}
Spd8 N016 vn pd 0 SWP
Sclk out N017 clk 0 SWP
Rclk N017 vn {rclamp}
Cgate out vn 350p
* +5 V DRIVE RAIL
* GATE NODE  -  this is what the driver charges
* OFF RAIL  -  0 V or -2 V
* INSIDE THE SEGMENTED GATE DRIVER  -  contents of models/segdrv.lib
* EIGHT PULL-UP SLICES  -  each 8 ohm, slice i on when npu >= i.  How hard the device is switched ON.
* EIGHT PULL-DOWN SLICES  -  each 8 ohm, slice i on when npd >= i.  How hard it is switched OFF.
* MILLER CLAMP  -  0.5 ohm
* the GaN gate
.model SWP SW(Ron=0.01 Roff=1e9 Vt=0.5 Vh=0.05)
.param npu=8 npd=8 runit=8 rclamp=0.5
.param VDRV=5 VNEG=0
Vvp vp 0 DC {VDRV}
Vvn vn 0 DC {VNEG}
Vpu pu 0 PULSE(0 1 0 1n 1n 200n 500n)
Vpd pd 0 PULSE(1 0 0 1n 1n 200n 500n)
Vclk clk 0 DC 0
.tran 0.1n 1u
.meas TRAN vgate_high MAX V(out)
* npu and npd are the slice counts the FPGA sets. Press Run to see the gate charge.
.backanno
.end
