* ===================================================================
* segdrv.lib -- Segmented gate driver output stage
*
* N=8 thermometer-coded pull-up slices, N=8 pull-down slices, plus a
* separately-timed active Miller clamp.  Slice count is set by the
* params npu / npd (1..8), which is the 4+4 bits the FPGA emits.
*
* Electrically N parallel slices of runit == runit/N, but the stage is
* built out of real discrete slices so that each slice maps 1:1 onto a
* sized transistor when this is redrawn in Cadence.  Do not "optimise"
* this into a single variable resistor -- the discretisation, and its
* monotonicity, is a result to report.
*
* Pins:  pu  pd  clk  out  vp  vn  ref
*   pu   : logic high => pull up   (referenced to ref)
*   pd   : logic high => pull down (referenced to ref)
*   clk  : logic high => Miller clamp engaged
*   ref  : local logic/driver ground (0 for low side, SW for high side)
* ===================================================================

.model SWP SW(Ron=0.01 Roff=1e9 Vt=0.5 Vh=0.05)

.subckt SEGDRV pu pd clk out vp vn ref params: npu=8 npd=8 runit=8 rclamp=0.5

* ---- pull-up bank : slice enabled if npu >= i --------------------
Spu1 vp nu1 pu ref SWP
Rpu1 nu1 out {runit}
Spu2 vp nu2 pu ref SWP
Rpu2 nu2 out {runit}
Spu3 vp nu3 pu ref SWP
Rpu3 nu3 out {runit}
Spu4 vp nu4 pu ref SWP
Rpu4 nu4 out {runit}
Spu5 vp nu5 pu ref SWP
Rpu5 nu5 out {runit}
Spu6 vp nu6 pu ref SWP
Rpu6 nu6 out {runit}
Spu7 vp nu7 pu ref SWP
Rpu7 nu7 out {runit}
Spu8 vp nu8 pu ref SWP
Rpu8 nu8 out {runit}

* ---- pull-down bank : slice enabled if npd >= i ------------------
Spd1 nd1 vn pd ref SWP
Rpd1 out nd1 {runit}
Spd2 nd2 vn pd ref SWP
Rpd2 out nd2 {runit}
Spd3 nd3 vn pd ref SWP
Rpd3 out nd3 {runit}
Spd4 nd4 vn pd ref SWP
Rpd4 out nd4 {runit}
Spd5 nd5 vn pd ref SWP
Rpd5 out nd5 {runit}
Spd6 nd6 vn pd ref SWP
Rpd6 out nd6 {runit}
Spd7 nd7 vn pd ref SWP
Rpd7 out nd7 {runit}
Spd8 nd8 vn pd ref SWP
Rpd8 out nd8 {runit}

* ---- active Miller clamp : strong, separately timed --------------
Sclk out nclk clk ref SWP
Rclk nclk vn {rclamp}

.ends SEGDRV
