* ===================================================================
* basedrv.lib -- BASE PAPER driver, implemented for comparison
*
* Implements the premise of:
*   H. Takayama, T. Okuda and T. Hikihara, "Digital active gate drive of
*   SiC MOSFETs for controlling switching behavior -- Preparation toward
*   universal digitization of power switching," Int. J. Circuit Theory
*   Appl., 50(1):183-196, 2022.  doi:10.1002/cta.3136
*
* WHAT THEIR DRIVER DOES, AND WHAT THIS REPRODUCES
* A DAC-architecture gate driver: a multibit digital code selects the
* drive strength, and the code CHANGES DURING the switching transient,
* so the gate is driven by a programmed multi-level waveform rather than
* one fixed strength. That time-sequencing is the paper's contribution
* and is what this file implements: strength A for the first TSEG of the
* edge, then strength B for the remainder.
*
* WHAT IT DELIBERATELY DOES NOT HAVE -- these are OUR additions, and
* leaving them out is the whole point of building this comparison:
*   - no active Miller clamp
*   - no negative off-bias rail  (vn is tied to ref by the testbench)
*   - no programmable dead time as a searched field
*
* Built on the same 8-slice array and the same SWP switch model as
* segdrv.lib so the two drivers differ ONLY in their control scheme,
* never in their output-stage physics. Any difference in the measured
* numbers is therefore attributable to the control, which is the claim
* the comparison has to support.
*
* Pins:  pu  pd  seg  out  vp  vn  ref
*   pu  : logic high => pull up            (referenced to ref)
*   pd  : logic high => pull down          (referenced to ref)
*   seg : logic high => use strength B     (the second segment)
*   ref : local driver ground (0 low side, SW high side)
* ===================================================================

* Same switch model as segdrv.lib -- identical output-stage physics.
.model SWPB SW(Ron=0.01 Roff=1e9 Vt=0.5 Vh=0.05)

.subckt BASEDRV pu pd seg out vp vn ref params: na=8 nb=2 runit=8

* Segment select: A active while seg is low, B active while seg is high.
* Two gated banks in parallel; exactly one conducts at a time.
Ssega nsa ref seg ref SWPB
Rsega nsa ref 1e9
Bsa   sa  ref V = (V(seg,ref) > 0.5) ? 0 : 5
Bsb   sb  ref V = (V(seg,ref) > 0.5) ? 5 : 0

* ---- pull-up, segment A (strength na) ----------------------------
Spua1 vp nua pu ref SWPB
Sgua  nua nua2 sa ref SWPB
Rpua  nua2 out {runit/na}

* ---- pull-up, segment B (strength nb) ----------------------------
Spub1 vp nub pu ref SWPB
Sgub  nub nub2 sb ref SWPB
Rpub  nub2 out {runit/nb}

* ---- pull-down, segment A ----------------------------------------
Spda1 nda vn pd ref SWPB
Sgda  nda2 nda sa ref SWPB
Rpda  out nda2 {runit/na}

* ---- pull-down, segment B ----------------------------------------
Spdb1 ndb vn pd ref SWPB
Sgdb  ndb2 ndb sb ref SWPB
Rpdb  out ndb2 {runit/nb}

* NO Miller clamp and NO negative rail. That is the comparison.
.ends BASEDRV
